US07932246B2
Ethyl 2-(methylthio)pyrimidine-5-carboxylate
Ethyl 4-chloro-2-methylthio-5-pyrimidine carboxylate (12.5 g, 53.88 mmol) and Zn powder (14.1 g, 215.52 mmol) were combined and benzene (60 ml) and 3M NH4Cl (140 ml) were added. The suspension was stirred vigorously and heated to 80° C. for 30 h. The reaction mixture was filtered through celite and washed with EtOAc (200 ml). The filtrate was concentrated in vacuo to about 50 ml and then partitioned between H2O (400 ml) and EtOAc (400 ml). The aqueous layer was further extracted with EtOAc (250 ml). The combined organic layers were dried (MgSO4) and concentrated in vacuo to a dark oil. This was purified by column chromatography eluting with neat heptane followed by 1:1:1 heptane/CH2Cl2/Et2O and finally 2:2:0.5 heptane/CH2Cl2/Et2O. The title compound was obtained as a colourless oil (13 g, 61%). m/z 199 [M+H]+, 1H NMR (300 MHz, d6-DMSO) δ: 1.30 (3H, t), 2.60 (3H, s), 4.35 (2H, q), 9.0 (2H, s).

reactant | Ethyl 4-chloro-2-methylthio-5-pyrimidine carboxylate | 53.88 mmol, 12.5 g | ClC1=NC(=NC=C1C(=O)OCC)SC | C8H9ClN2O2S
reactant | NH4Cl | 3M, 140 ml | [NH4+].[Cl-]
catalyst | Zn | 215.52 mmol, 14.1 g | [Zn] | Zn
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | Ethyl 2-(methylthio)pyrimidine-5-carboxylate | CSC1=NC=C(C=N1)C(=O)OCC | C8H10N2O2S
